US07723352B2
A solution of 2-benzyl-4-methoxy-N-methylbenzamide (125 mg) in 5 mL THF was cooled to −78 C. n-BuLi (0.400 mL, 2.5 M in hexanes) was added, and the reaction was stirred at −78 C for 20 min. A solution of ethyl formate (0.160 mL) in 1 mL THF was added via cannula. The reaction was quenched at −78 C by addition of saturated aqueous ammonium acetate. The mixture was extracted with EtOAc and concentrated to give 4-methoxy-N-methyl-2-(2-oxo-1-phenylethyl)benzamide, which was used without further purification.

reactant | 2-benzyl-4-methoxy-N-methylbenzamide | 125 mg | C(C1=CC=CC=C1)C1=C(C(=O)NC)C=CC(=C1)OC | C16H17NO2
reactant | n-BuLi | 2.5 M, 0.400 mL | [Li]CCCC
reactant | ethyl formate | 0.160 mL | C(=O)OCC | C3H6O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-methoxy-N-methyl-2-(2-oxo-1-phenylethyl)benzamide | COC1=CC(=C(C(=O)NC)C=C1)C(C=O)C1=CC=CC=C1 | C17H17NO3
